### PR TITLE
[Merged by Bors] - feat (RingTheory/Binomial) : Multichoose at negative arguments

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR adds some lemmas for evaluating Pochhammer polynomials and the multichoose function at negative arguments.  This is preparation for identities involving generalized binomial coefficients.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Binomial.lean [hunk 1]
```diff
@@ -176,6 +176,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+  simp only
+  rw [factorial_nsmul_multichoose_eq_ascPochhammer, ascPochhammer_succ_smeval_neg, smul_zero]
+
+theorem multichoose_neg_add (n k : ℕ) : multichoose (-n : ℤ) (n + k + 1) = 0 := by
+  refine nsmul_right_injective (Nat.factorial (n + k + 1)) (Nat.factorial_ne_zero (n + k + 1)) ?_
+  simp only
+  rw [factorial_nsmul_multichoose_eq_ascPochhammer, ascPochhammer_smeval_neg_add, smul_zero]
+
+@[simp]
+theorem multichoose_neg_lt (n k : ℕ) (h : n < k) : multichoose (-n : ℤ) k = 0 := by
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:245]: Should be `neg_of_lt`.

File: Mathlib/RingTheory/Binomial.lean [hunk 2]
```diff
@@ -176,6 +176,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+  rw [factorial_nsmul_multichoose_eq_ascPochhammer, ascPochhammer_smeval_neg_lt n k h, smul_zero]
+
+theorem multichoose_succ_neg_natCast [NatPowAssoc R] (n : ℕ) :
+    multichoose (-n : R) (n + 1) = 0 := by
+  refine nsmul_right_injective (Nat.factorial (n + 1)) (Nat.factorial_ne_zero (n + 1)) ?_
+  simp only [smul_zero]
+  rw [factorial_nsmul_multichoose_eq_ascPochhammer, smeval_at_neg_nat,
+    ascPochhammer_succ_smeval_neg n, Int.cast_zero]
+
+theorem ascPochhammer_smeval_nat_int [NatPowAssoc R] (r : R) : ∀(n : ℕ),
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:257]: Perhaps should be `smeval_ascPochhammer_int_ofNat` or `smeval_ascPochhammer_int_coe_nat`.

File: Mathlib/RingTheory/Binomial.lean [hunk 3]
```diff
@@ -176,6 +176,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+
+theorem multichoose_neg (n : ℕ) : multichoose (-n : ℤ) n = (-1)^n := by
+    refine @nsmul_right_injective ℤ _ _ _ (Nat.factorial n) (Nat.factorial_ne_zero n)
+      (multichoose (-n : ℤ) n) ((-1)^n) ?_
+    simp only
+    rw [factorial_nsmul_multichoose_eq_ascPochhammer, ascPochhammer_smeval_neg_self, nsmul_eq_mul,
+      Nat.cast_comm]
+
+@[simp]
+theorem multichoose_succ_neg (n : ℕ) : multichoose (-n : ℤ) (n + 1) = 0 := by
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:233]: `multichoose_neg_succ`

File: Mathlib/RingTheory/Binomial.lean [hunk 4]
```diff
@@ -176,6 +176,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+    smeval (ascPochhammer ℕ k) (-n : ℤ) = 0 := by
+  have hk : k = n + (k - n - 1) + 1 := by
+    rw [add_rotate, Nat.sub_sub, Nat.add_right_comm, Nat.add_assoc, Nat.sub_add_cancel h]
+  rw [hk, ascPochhammer_smeval_neg_add]
+
+theorem ascPochhammer_smeval_nat_cast [NatPowAssoc R] (n k : ℕ) :
+    smeval (ascPochhammer ℕ k) (n : R) = smeval (ascPochhammer ℕ k) n := by
+  rw [smeval_at_natCast (ascPochhammer ℕ k) n]
+
+theorem multichoose_neg (n : ℕ) : multichoose (-n : ℤ) n = (-1)^n := by
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:225]: multichoose_neg_self

File: Mathlib/RingTheory/Binomial.lean [hunk 5]
```diff
@@ -176,6 +176,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+theorem ascPochhammer_smeval_neg_add (n : ℕ) : ∀(k : ℕ),
+    smeval (ascPochhammer ℕ (n + k + 1)) (-n : ℤ) = 0
+  | 0 => by
+    rw [add_zero, ascPochhammer_succ_smeval_neg]
+  | k + 1 => by
+    rw [ascPochhammer_succ_right, smeval_mul, ← add_assoc, ascPochhammer_smeval_neg_add n k,
+      zero_mul]
+
+@[simp]
+theorem ascPochhammer_smeval_neg_lt (n k : ℕ) (h : n < k) :
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:215]: `_of_lt`

File: Mathlib/RingTheory/Binomial.lean [hunk 6]
```diff
@@ -176,6 +176,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+      Nat.factorial, Nat.cast_mul, ← mul_assoc, Nat.cast_succ]
+
+@[simp]
+theorem ascPochhammer_succ_smeval_neg (n : ℕ) :
+    smeval (ascPochhammer ℕ (n + 1)) (-n : ℤ) = 0 := by
+  rw [ascPochhammer_succ_right, smeval_mul, smeval_add, smeval_X, ← C_eq_natCast, smeval_C,
+    pow_zero, pow_one, Nat.cast_id, nsmul_eq_mul, mul_one, add_left_neg, mul_zero]
+
+theorem ascPochhammer_smeval_neg_add (n : ℕ) : ∀(k : ℕ),
+    smeval (ascPochhammer ℕ (n + k + 1)) (-n : ℤ) = 0
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:207]: All of these should be `smeval_ascPochhammer` rather than `ascPochhammer_smeval`.

File: Mathlib/RingTheory/Binomial.lean [hunk 7]
```diff
@@ -176,6 +176,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+section Neg
+
+namespace Ring
+
+open Polynomial
+
+variable {R : Type*} [NonAssocRing R] [Pow R ℕ] [BinomialRing R]
+
+@[simp]
+theorem ascPochhammer_smeval_neg_self : ∀(n : ℕ),
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:188]: `smeval_ascPochhammer_self_neg`.

File: Mathlib/Algebra/Polynomial/Smeval.lean [hunk 8]
```diff
@@ -163,6 +163,15 @@ theorem smeval_neg : (-p).smeval x = - p.smeval x := by
 theorem smeval_sub : (p - q).smeval x = p.smeval x - q.smeval x := by
   rw [sub_eq_add_neg, smeval_add, smeval_neg, sub_eq_add_neg]
 
+theorem smeval_at_neg_nat (S : Type*) [NonAssocRing S]  [Pow S ℕ] [NatPowAssoc S] (q : ℕ[X])
```
Comment (semorrison) [inline Mathlib/Algebra/Polynomial/Smeval.lean:166]: Remove `_at`.

File: Mathlib/Algebra/Polynomial/Smeval.lean [hunk 9]
```diff
@@ -161,6 +161,15 @@ theorem smeval_neg : (-p).smeval x = - p.smeval x := by
...
   rw [sub_eq_add_neg, smeval_add, smeval_neg, sub_eq_add_neg]
 
+theorem smeval_neg_nat (S : Type*) [NonAssocRing S]  [Pow S ℕ] [NatPowAssoc S] (q : ℕ[X])
+    (n : ℕ) : q.smeval (-(n : S)) = q.smeval (-n : ℤ) := by
+    rw [smeval_eq_sum, smeval_eq_sum]
+    simp only [Polynomial.smul_pow, sum_def, Int.cast_sum, Int.cast_mul, Int.cast_npow]
+    refine Finset.sum_congr rfl ?_
+    intro k _
+    rw [show -(n : S) = (-n : ℤ) by simp only [Int.cast_neg, Int.cast_natCast], nsmul_eq_mul,
+      ← AddGroupWithOne.intCast_ofNat, ← Int.cast_npow, ← Int.cast_mul, ← nsmul_eq_mul]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/Smeval.lean:171]:
```suggestion
  rw [smeval_eq_sum, smeval_eq_sum]
  simp only [Polynomial.smul_pow, sum_def, Int.cast_sum, Int.cast_mul, Int.cast_npow]
  refine Finset.sum_congr rfl ?_
  intro k _
  rw [show -(n : S) = (-n : ℤ) by simp only [Int.cast_neg, Int.cast_natCast], nsmul_eq_mul,
    ← AddGroupWithOne.intCast_ofNat, ← Int.cast_npow, ← Int.cast_mul, ← nsmul_eq_mul]
```

File: Mathlib/Algebra/Polynomial/Smeval.lean [hunk 10]
```diff
@@ -161,6 +161,15 @@ theorem smeval_neg : (-p).smeval x = - p.smeval x := by
 theorem smeval_sub : (p - q).smeval x = p.smeval x - q.smeval x := by
   rw [sub_eq_add_neg, smeval_add, smeval_neg, sub_eq_add_neg]
 
+theorem smeval_neg_nat (S : Type*) [NonAssocRing S]  [Pow S ℕ] [NatPowAssoc S] (q : ℕ[X])
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/Smeval.lean:164]:
```suggestion
theorem smeval_neg_nat (S : Type*) [NonAssocRing S] [Pow S ℕ] [NatPowAssoc S] (q : ℕ[X])
```

File: Mathlib/RingTheory/Binomial.lean [hunk 11]
```diff
@@ -238,6 +238,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+section Neg
+
+namespace Ring
+
+open Polynomial
+
+variable {R : Type*} [NonAssocRing R] [Pow R ℕ] [BinomialRing R]
+
+@[simp]
+theorem smeval_ascPochhammer_self_neg : ∀(n : ℕ),
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Binomial.lean:250]:
```suggestion
theorem smeval_ascPochhammer_self_neg : ∀ n : ℕ,
```

File: Mathlib/RingTheory/Binomial.lean [hunk 12]
```diff
@@ -238,6 +238,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+      show (-1 + -↑n = (-1 : ℤ) * (n + 1)) by omega, ← mul_assoc, pow_add, pow_one,
+      Nat.factorial, Nat.cast_mul, ← mul_assoc, Nat.cast_succ]
+
+@[simp]
+theorem smeval_ascPochhammer_succ_neg (n : ℕ) :
+    smeval (ascPochhammer ℕ (n + 1)) (-n : ℤ) = 0 := by
+  rw [ascPochhammer_succ_right, smeval_mul, smeval_add, smeval_X, ← C_eq_natCast, smeval_C,
+    pow_zero, pow_one, Nat.cast_id, nsmul_eq_mul, mul_one, add_left_neg, mul_zero]
+
+theorem smeval_ascPochhammer_neg_add (n : ℕ) : ∀(k : ℕ),
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Binomial.lean:268]:
```suggestion
theorem smeval_ascPochhammer_neg_add (n : ℕ) : ∀ k : ℕ,
```

File: Mathlib/RingTheory/Binomial.lean [hunk 13]
```diff
@@ -238,6 +238,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+    smeval (ascPochhammer ℕ (n + k + 1)) (-n : ℤ) = 0
+  | 0 => by
+    rw [add_zero, smeval_ascPochhammer_succ_neg]
+  | k + 1 => by
+    rw [ascPochhammer_succ_right, smeval_mul, ← add_assoc, smeval_ascPochhammer_neg_add n k,
+      zero_mul]
+
+@[simp]
+theorem smeval_ascPochhammer_neg_of_lt (n k : ℕ) (h : n < k) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Binomial.lean:277]: Should n and k be explicit?

File: Mathlib/RingTheory/Binomial.lean [hunk 14]
```diff
@@ -238,6 +238,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+    smeval (ascPochhammer ℕ k) (-n : ℤ) = 0 := by
+  have hk : k = n + (k - n - 1) + 1 := by
+    rw [add_rotate, Nat.sub_sub, Nat.add_right_comm, Nat.add_assoc, Nat.sub_add_cancel h]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Binomial.lean:280]: Likely omega would also solve it

File: Mathlib/RingTheory/Binomial.lean [hunk 15]
```diff
@@ -238,6 +238,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+theorem smeval_ascPochhammer_nat_cast [NatPowAssoc R] (n k : ℕ) :
+    smeval (ascPochhammer ℕ k) (n : R) = smeval (ascPochhammer ℕ k) n := by
+  rw [smeval_at_natCast (ascPochhammer ℕ k) n]
+
+theorem multichoose_neg_self (n : ℕ) : multichoose (-n : ℤ) n = (-1)^n := by
+    refine @nsmul_right_injective ℤ _ _ _ (Nat.factorial n) (Nat.factorial_ne_zero n)
+      (multichoose (-n : ℤ) n) ((-1)^n) ?_
+    simp only
+    rw [factorial_nsmul_multichoose_eq_ascPochhammer, smeval_ascPochhammer_self_neg, nsmul_eq_mul,
+      Nat.cast_comm]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Binomial.lean:292]:
```suggestion
  refine @nsmul_right_injective ℤ _ _ _ (Nat.factorial n) (Nat.factorial_ne_zero n)
    (multichoose (-n : ℤ) n) ((-1)^n) ?_
  simp only
  rw [factorial_nsmul_multichoose_eq_ascPochhammer, smeval_ascPochhammer_self_neg, nsmul_eq_mul,
    Nat.cast_comm]
```

File: Mathlib/RingTheory/Binomial.lean [hunk 16]
```diff
@@ -238,6 +238,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+
+theorem smeval_ascPochhammer_int_ofNat [NatPowAssoc R] (r : R) : ∀ (n : ℕ),
+    smeval (ascPochhammer ℤ n) r = smeval (ascPochhammer ℕ n) r
+  | 0 => by
+    simp only [ascPochhammer_zero, smeval_one]
+  | n + 1 => by
+    simp only [ascPochhammer_succ_right, smeval_mul]
+    rw [smeval_ascPochhammer_int_ofNat r n]
+    simp only [smeval_add, smeval_X, ← C_eq_natCast, smeval_C, natCast_zsmul, nsmul_eq_mul,
+    Nat.cast_id]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Binomial.lean:327]:
```suggestion
      Nat.cast_id]
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Some minor comments

File: Mathlib/RingTheory/Binomial.lean (hunk 13 above)
Comment (semorrison) [reply Mathlib/RingTheory/Binomial.lean:277]: They should be implicit, unless you have at least one call site when they need to be specified (and even then consider using named arguments if mostly implicit will do).

File: Mathlib/RingTheory/Binomial.lean [hunk 17]
```diff
@@ -238,6 +238,98 @@ instance Int.instBinomialRing : BinomialRing ℤ where
...
+    rw [add_rotate, Nat.sub_sub, Nat.add_right_comm, Nat.add_assoc, Nat.sub_add_cancel h]
+  rw [hk, smeval_ascPochhammer_neg_add]
+
+theorem smeval_ascPochhammer_nat_cast [NatPowAssoc R] (n k : ℕ) :
+    smeval (ascPochhammer ℕ k) (n : R) = smeval (ascPochhammer ℕ k) n := by
+  rw [smeval_at_natCast (ascPochhammer ℕ k) n]
+
+theorem multichoose_neg_self (n : ℕ) : multichoose (-n : ℤ) n = (-1)^n := by
+    refine @nsmul_right_injective ℤ _ _ _ (Nat.factorial n) (Nat.factorial_ne_zero n)
+      (multichoose (-n : ℤ) n) ((-1)^n) ?_
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:289]:
```suggestion
  apply nsmul_right_injective _ (Nat.factorial_ne_zero _)
```
suffices.

Comment (semorrison) [reply Mathlib/RingTheory/Binomial.lean:289]: Perhaps below as well.

**Comment by semorrison** [comment]
If you can make Ruben and my final suggested changes, this looks good. Apologies this took so long!

bors d+
